US05175301
In 30 ml of toluene was dissolved 2.5 g (0.02 mole) of N-methyl-N-3-pyridylmethylamine followed by addition of 1.5 g (0.02 mole) of methyl isothiocyanate and the mixture was stirred at room temperature overnight. Finally, the solvent was distilled off to give 3.8 g of N-methyl-N'-methyl-N'-3-pyridylmethylthiourea as a yellow viscous oil. This oily product was purified by silica gel column chromatography using HeOH--CHCl3 (1:10) as an eluent to give crystals.

reactant | N-methyl-N-3-pyridylmethylamine | 0.02 mole, 2.5 g | CNCC=1C=NC=CC1 | C7H10N2
reactant | methyl isothiocyanate | 0.02 mole, 1.5 g | CN=C=S | C2H3NS
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | N-methyl-N'-methyl-N'-3-pyridylmethylthiourea | 3.8 g | CNC(=S)N(CC=1C=NC=CC1)C | C9H13N3S
